US07902252B2
2.42. Synthesis of methyl 4-(4-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in six steps. First, methyl 1H-pyrrole-2-carboxylate (1.0 g, 8 mmol, 1 equiv) in DCE (15 mL) was reacted with 4-bromophenylacetic acid (2.06 g, 9.6 mmol, 1.2 equiv) according to General Procedure 1.2.A to afford methyl 4-(2-(4-bromophenyl)acetyl)-1H-pyrrole-2-carboxylate, which was then BOC-protected according to General Procedure 1.2.B to provide 1-tert-butyl 2-methyl 4-(2-(4-bromophenyl)acetyl)-1H-pyrrole-1,2-dicarboxylate, which was next reacted with 2-tert-butoxy-2-oxoethylzinc chloride (3.0 g, 28.2 mL, 0.5M in ether, 14 mmol, 3.5 equiv) according to General Procedure 1.2.C to afford 1-tert-butyl 2-methyl 4-(1-(4-bromophenyl)-4-tert-butoxy-2-hydroxy-4-oxobutan-2-yl)-1H-pyrrole-1,2-dicarboxylate, which was reacted with trifluoroacetic acid (8.25 mL, 0.45 M) and triethylsilane (1.25 g, 1.72 mL, 2.9 equiv) according to General Procedure 1.2.D to provide 4-(4-bromophenyl)-3-(5-(methoxycarbonyl)-1H-pyrrol-3-yl)butanoic acid. This product was then cyclized by reaction with PPA (3.16 g) according to General Procedure 1.2.E to achieve methyl 4-(4-bromobenzyl)-6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate. Reduction with decaborane (0.34 g, 3 mmol, 5 equiv) according to Procedure 5b afforded the title compound, which was purified by purified by column chromatography (Isco CombiFlash) using a 0-30% gradient (EtOAc/Heptane). 0.0998 g. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.03-2.16 (m, 1H) 2.58 (dt, J=12.39, 6.88 Hz, 1H) 2.66 (t, J=6.99 Hz, 2H) 2.76 (d, J=7.39 Hz, 2H) 3.28 (dq, J=7.18, 6.92 Hz, 1H) 3.81 (s, 3H) 6.38 (d, J=1.48 Hz, 1H) 7.07 (d, J=8.31 Hz, 2H) 7.42 (q, J=4.17 Hz, 2H) 8.82 (br. s, 1H).

reactant | methyl 4-(4-bromobenzyl)-6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | BrC1=CC=C(CC2CC(C=3NC(=CC32)C(=O)OC)=O)C=C1 | C16H14BrNO3
reactant | decaborane | 3 mmol, 0.34 g, 5 equiv | [B][B][B][B][B][B][B][B][B][B] | B10
product | methyl 4-(4-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | BrC1=CC=C(CC2CCC=3NC(=CC32)C(=O)OC)C=C1 | C16H16BrNO2
